US07846956B2
2.0 g of 2-chloro-N-hydroxyacetoamidine and 1.80 g of propionyl chloride were dissolved in 50 ml of N,N-dimethylformamide, and 2.05 g of triethylamine was added dropwise under ice-cooling. The mixture was stirred at 130° C. for 5 hours and then cooled to room temperature. After aqueous saturated sodium chloride was added, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.62 g of 3-(chloromethyl)-5-ethyl-1,2,4-oxadiazole.

reactant | 2-chloro-N-hydroxyacetoamidine | 2.0 g | ClCC(=N)NO | C2H5ClN2O
reactant | propionyl chloride | 1.80 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 2.05 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(chloromethyl)-5-ethyl-1,2,4-oxadiazole | 0.62 g | ClCC1=NOC(=N1)CC | C5H7ClN2O
